US08114881B2
a) 4-[1,2,3]Triazol-1-yl-benzonitrile
4-Fluorobenzonitrile (0.847 g, 7 mmol), 1H-[1,2,3]triazole (0.483 g, 7 mmol), Cs2CO3 (2.27 g, 7 mmol) and DMF (8 ml) and a magnetic stirrer were placed in a vial. The mixture was heated with stirring for 3 h at 80° C. Extractive work-up (EtOAc/H2O) and subsequent drying (Na2SO4) gave a crude product which was purified on silica giving 0.55 g (46%) of the title intermediate.

reactant | 4-Fluorobenzonitrile | 7 mmol, 0.847 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 1H-[1,2,3]triazole | 7 mmol, 0.483 g | N1N=NC=C1 | C2H3N3
reactant | Cs2CO3 | 7 mmol, 2.27 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-[1,2,3]Triazol-1-yl-benzonitrile | N1(N=NC=C1)C1=CC=C(C#N)C=C1 | C9H6N4
